US07772183B2
Prepared by way of method II using 18-hydroxy-14-tert-butoxycarbonylamino-4-cyclopropylsulfonylaminocarbonyl-2,15-dioxo-3,16-diazatricyclo[14.3.0.04,6]-nonadec-7-ene (100 mg, 0.175 mmol) and 4-cyanobenzoyl chloride (87 mg, 0.53 mmol). The final trituration (diethyl ether/hexane) and filtration gave 45 mg (37%) of 18-(4-cyanobenzoyloxy)-14-tert-butoxycarbonylamino-4-cyclopropylsulfonylaminocarbonyl-2,15-dioxo-3,16-diazatricyclo-[14.3.0.04,6]-nonadec-7-ene as a white powder: 99.0% pure (HPLC), MS m/z 696 (M−H)−, HRMS: calcd. 715.3125 and found 715.3147 (M+NH4)+, mp 164-166° C.

reactant | 18-hydroxy-14-tert-butoxycarbonylamino-4-cyclopropylsulfonylaminocarbonyl-2,15-dioxo-3,16-diazatricyclo[14.3.0.04,6]-nonadec-7-ene | 0.175 mmol, 100 mg | OC1CN2C(C(CCCCCC=CC3CC3(NC(C2C1)=O)C(=O)NS(=O)(=O)C1CC1)NC(=O)OC(C)(C)C)=O | C26H40N4O8S
reactant | 4-cyanobenzoyl chloride | 0.53 mmol, 87 mg | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
product | 18-(4-cyanobenzoyloxy)-14-tert-butoxycarbonylamino-4-cyclopropylsulfonylaminocarbonyl-2,15-dioxo-3,16-diazatricyclo-[14.3.0.04,6]-nonadec-7-ene | 45 mg, 37% | C(#N)C1=CC=C(C(=O)OC2CN3C(C(CCCCCC=CC4CC4(NC(C3C2)=O)C(=O)NS(=O)(=O)C2CC2)NC(=O)OC(C)(C)C)=O)C=C1 | C34H43N5O9S
